US07825260B2
Preparation of 2-(2-pentyl-benzoxazol-5-yl)-ethanol
A solution of (2-pentyl-benzoxazol-5-yl)-acetic acid (2.11 g, 8.53 mmol) in triethyl orthoacetate (4.67 ml, 25.6 mmol) was heated under pressure (in three portions in the microwave Emrys optimizer) to 180° C. for 8 minutes. After cooling to RT the reaction mixture was distributed between AcOEt and saturated aqueous sodium hydrogen carbonate. The organic layer was washed two times with water, dried over MgSO4 and concentrated in vacuum. 1.88 g of the crude (2-pentyl-benzoxazol-5-yl)-acetic acid ethyl ester (2.31 g, 99%) were dissolved in dry ethanol (43 ml) and added to a solution of Ca(BH4)2 (prepared from sodium borohydride (3.87 g, 102.4 mmol) suspended in dry ethanol (130 ml), cooled to −10° C., treated with CaCl2 (5.68 g, 51.2 mmol) and stirred for 45 minutes while warming to 0° C.). After stirring for 2 hours at 8° C. the reaction mixture was filtered and the precipitate washed with ethanol. The filtrate was combined with the washings and concentrated in vacuum, treated with MeOH and concentrated again. Silica gel chromatography (eluent: DCM/methanol 10/1) provided the title compound as colorless solid. 1H-NMR (DMSO-d6) δ: 7.51 (d, J=8.1 Hz; 1H), 7.49 (s; 1H), 7.16 (dd, J=8.3, 1.6 Hz; 1H), 4.60 (t, J=5.2 Hz; 1H), 3.61 (m; 2H), 2.88 (t, J=7.4 Hz; 2H), 2.80 (t, J=7.0 Hz; 2H), 1.76 (m; 2H), 1.30 (m; 4H), 0.85 (m; 3H).

reactant | (2-pentyl-benzoxazol-5-yl)-acetic acid | 8.53 mmol, 2.11 g | C(CCCC)C=1OC2=C(N1)C=C(C=C2)CC(=O)O | C14H17NO3
reactant | triethyl orthoacetate | 25.6 mmol, 4.67 ml | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(2-pentyl-benzoxazol-5-yl)-ethanol | C(CCCC)C=1OC2=C(N1)C=C(C=C2)CCO | C14H19NO2
